US05864039
To a solution of cis-1-tert-butoxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpiperidine (4.44 g) in dimethylformamide (60 ml) were added sodium azide (1.4 g) and ammonium chloride (1.15 g), and the resulting mixture was stirred at 60° C. for 6 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=40:1) to give 3.4 g of cis-4-azidomethyl-1-tert-butoxycarbonyl-3-hydroxypiperidine.

reactant | cis-1-tert-butoxycarbonyl-3-hydroxy-4-methanesulfonyloxymethylpiperidine | 4.44 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COS(=O)(=O)C)O | C12H23NO6S
reactant | sodium azide | 1.4 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.15 g | [Cl-].[NH4+]
reactant | Water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | cis-4-azidomethyl-1-tert-butoxycarbonyl-3-hydroxypiperidine | 3.4 g | N(=[N+]=[N-])C[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)O | C11H20N4O3
